US05578593
1'-(1,1-Dimethylethyloxycarbonyl)-3-(methylsulfonyl)amino-2,3-dihydrospiro(1H-indene-1,4'-piperidine)
A sample of 1'-(1,1-Dimethylethyloxycarbonyl)-3-amino-2,3-dihydrospiro(1H-indene-1,4'-piperidine), prepared by hydrogenation of 500 mg of oxime (1.58 mmole) as in Example 135 Step A, in 3.5 mL methylene chloride containing 475 mg of DMAP (2.46×1.58 mmole), and 550λ of triethylamine (2.51×1.58 mmole), was stirred under nitrogen in an ice bath while adding a solution of 270λ of methanesulfonyl chloride (2.2×1.58 mmole) in 3 mL methylene chloride dropwise over 2-3 minutes. The suspension was stored over night in the refrigerator. It was then washed twice with water, dried with magnesium sulfate and concentrated under reduced pressure to a gum. Preparative TLC on four 8"×8"×1,000 g GF silica gel plates using 1:2 ethyl acetate: hexane afforded the title compound, which crystallized on standing. Yield: 322 mg (54%)

reactant | 1'-(1,1-Dimethylethyloxycarbonyl)-3-amino-2,3-dihydrospiro(1H-indene-1,4'-piperidine) | CC(C)(OC(=O)N1CCC2(CC1)CC(C1=CC=CC=C12)N)C | C18H26N2O2
reactant | triethylamine | 1.58 mmole | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.58 mmole | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 3.5 mL, 475 mg | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.58 mmole | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1'-(1,1-Dimethylethyloxycarbonyl)-3-(methylsulfonyl)amino-2,3-dihydrospiro(1H-indene-1,4'-piperidine) | CC(C)(OC(=O)N1CCC2(CC1)CC(C1=CC=CC=C12)NS(=O)(=O)C)C | C19H28N2O4S
